US06734306B2
E. 3-Benzyl-3.8-diazabicyclo[3.2.1]octane
To a stirred suspension of LiAlH4 (1.37 g, 36.1 mmol) in dry Et2O (23 mL) was added a solution of 3-benzyl-3,8-diazabicyclo[3.2.1]octane-2,4-dione (2.74 g, 11.9 mmol) in dry Et2O (27.5 mL) dropwise at 0° C. Then the mixture was refluxed for 46 h. After cooling down, the mixture was quenched with H2O (1.4 mL), 15% aq. NaOH (1.4 mL) and H2O (4.1 mL) successively, filtered through celite. The filtrate was concentrated in vacuo to provide a product (2.3 g, 96%) as a yellow oil. This product was used for the next reaction without purification.

reactant | LiAlH4 | 36.1 mmol, 1.37 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-benzyl-3,8-diazabicyclo[3.2.1]octane-2,4-dione | 11.9 mmol, 2.74 g | C(C1=CC=CC=C1)N1C(C2CCC(C1=O)N2)=O | C13H14N2O2
solvent | Et2O | 23 mL | CCOCC | C4H10O
solvent | Et2O | 27.5 mL | CCOCC | C4H10O
product | 3-Benzyl-3.8-diazabicyclo[3.2.1]octane | 2.3 g, 96% | C(C1=CC=CC=C1)N1CC2CCC(C1)N2 | C13H18N2
